US06881754B2
a) (2E)-3-[4-Chloro-3-[[(tricyclo[3.3.1.13,7]dec-1-ylmethyl)amino]carbonyl]phenyl]-2-propenoic acid, methyl ester
5-Bromo-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (5 g), methyl acrylate (1.4 ml), triethylamine (2. 1 ml), palladium acetate (0.070 g) and tri-orthotolyl phosphine (0.185 g) were combined in N,N-dimethylformamide (20 ml). The mixture was heated in a sealed tube under nitrogen at 90° C. for 24 h. After cooling, the reaction mixture was partitioned between dichloromethane and dilute hydrochloric acid, the mixed phases were filtered through celite and the phases separated. The organic layer was washed with dilute hydrochloric acid and brine, dried over magnesium sulfate and concentrated under reduced pressure to give a residue which was triturated with diethyl ether and filtered to yield the subtitled compound as an off white solid (4.1 g).

reactant | 5-Bromo-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 5 g | BrC=1C=CC(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C1)Cl | C18H21BrClNO
reactant | methyl acrylate | 1.4 ml | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | tri-orthotolyl phosphine | 0.185 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.070 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2E)-3-[4-Chloro-3-[[(tricyclo[3.3.1.13,7]dec-1-ylmethyl)amino]carbonyl]phenyl]-2-propenoic acid, methyl ester | ClC1=C(C=C(C=C1)/C=C/C(=O)OC)C(=O)NCC12CC3CC(CC(C1)C3)C2 | C22H26ClNO3
